US06586441B2
4-Furan-2-yl-5-iodo-6-(pyridin-2-ylmethoxy)-pyrimidin-2-yl-amine
From 4-furan-2-yl-5-iodo-6-methanesulfinyl-pyrimidin-2-yl-amine, 2-(hydroxymethyl)pyridine and DBU in dioxane. ES-MS m/e (%): 395 (M+H+, 100).

reactant | 4-furan-2-yl-5-iodo-6-methanesulfinyl-pyrimidin-2-yl-amine | O1C(=CC=C1)C1=NC(=NC(=C1I)S(=O)C)N | C9H8IN3O2S
reactant | 2-(hydroxymethyl)pyridine | OCC1=NC=CC=C1 | C6H7NO
reactant | DBU | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 4-Furan-2-yl-5-iodo-6-(pyridin-2-ylmethoxy)-pyrimidin-2-yl-amine | O1C(=CC=C1)C1=NC(=NC(=C1I)OCC1=NC=CC=C1)N | C14H11IN4O2
